US06362177B1
A mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-hydroxy-3-nitrobenzyl)piperidine prepared above, 10% palladium-activated carbon (45 mg), and methanol (5 mL) was stirred under a hydrogen atmosphere at room temperature for 2 h. The Pd catalyst was filtered off and the filtrate was concentrated to afford 1-(3-amino-4-hydroxybenzyl)-4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (100 mg, 60%).

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-hydroxy-3-nitrobenzyl)piperidine | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)O)[N+](=O)[O-])C=C(C(=C1)F)F | C27H33F2N5O7
catalyst | palladium-activated carbon | 45 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 1-(3-amino-4-hydroxybenzyl)-4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 100 mg, 60% | NC=1C=C(CN2CCC(CC2)CNC(CNC(C2=C(C=C(C(=C2)F)F)NC(=O)OC(C)(C)C)=O)=O)C=CC1O | C27H35F2N5O5
